US07417064B2
(4-Cyclohexyl-3-oxo-butyl)-methyl-carbamic acid tert-butyl ester
Add dropwise bromomethylcyclohexane (16.96 mL, 0.121 mol) to a stirred warm solution of magnesium (granulae, 3.02 g, 0.124 mol), a crystal of iodine and tetrahydrofuran (130 mL). Heat the mixture to reflux for one hour. Add the Grignard reagent (30 mL) to a stirred mixture of [2-(methoxy-methyl-carbamoyl)-ethyl]-methyl-carbamic acid tert-butyl ester (3.0 g, 12.0 mmol, prepared according to Blaney, P.; Grigg, R.; Rankovic, Z.; Thornton-Pett, M.; Xu, J. Tetrahedron 2002, 1719-1737) and tetrahydrofuran (120 mL) kept at 0° C. under N2. Stir the mixture for one h at 0°C. and for 2 h at room temperature. Add more of the Grignard reagent (40 mL) and stir for another hour at room temperature. Add saturated aqueous ammonium chloride and separated the layers. Extract the water layer with diethyl ether (×3). Dry the combined organic layers, filter and concentrate. Purify the crude residue by flash column chromatography, eluting with ethyl acetate/hexane (1:9) to yield 1.0 g of the title compound. 1HNMR (CDCl3) δ 3.46-3.40 (m, 2H), 2.85 (s, 3H), 2.68-2.60 (m, 2H), 2.29 (d, 2H), 1.87-1.60 (m, 6H), 1.46 (s, 9H), 1.33-1.07 (m, 3H), 0.99-0.86 (m, 2H).

reactant | bromomethylcyclohexane | 0.121 mol, 16.96 mL | BrCC1CCCCC1 | C7H13Br
reactant | magnesium | 0.124 mol, 3.02 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | [2-(methoxy-methyl-carbamoyl)-ethyl]-methyl-carbamic acid tert-butyl ester | 12.0 mmol, 3.0 g | C(C)(C)(C)OC(N(C)CCC(N(C)OC)=O)=O | C11H22N2O4
reactant | Pett | CCOC(=O)C1=CSC(=N1)C2=CSC3=NC(=NN23)C4=CC=CC=C4 | C16H12N4O2S2
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 130 mL | O1CCCC1 | C4H8O
product | (4-Cyclohexyl-3-oxo-butyl)-methyl-carbamic acid tert-butyl ester | 1.0 g | C(C)(C)(C)OC(N(C)CCC(CC1CCCCC1)=O)=O | C16H29NO3
